US06380215B1
To a mixture of zinc (11.9 g) in tetrahydrofuran (215 ml) was added titanium (IV) isopropoxide (6.0 ml) at ambient temperature and the resultant mixture was stirred for 1 hour. A solution of methyleneiodide (8.1 ml) was then added to the mixture was stirred for 30 minutes. To the resultant mixture was added dropwise a solution of (S)-N-tert-butyldimethylsilyl-4-formyl-2-azetidinone (4.3 g) in tetrahydrofuran (130 ml) and stirred for 2 hours. The mixture was poured into a mixture of diethyl ether (500 ml) and 1N HCl (300 ml). The organic layer was washed with water, saturated aqueous NaHCO3 solution and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatograph on silica gel eluting with (EtOAc:n-hexane=1:10) to give (S)-N-tert-butyldimethylsilyl-4-vinyl-2-azetidinone (2.13 g) as a colorless oil.

reactant | methyleneiodide | 8.1 ml | C(I)I | CH2I2
reactant | (S)-N-tert-butyldimethylsilyl-4-formyl-2-azetidinone | 4.3 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C=O)=O | C10H19NO2Si
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
reactant | HCl | 1N, 300 ml | Cl | ClH
solvent | tetrahydrofuran | 215 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
catalyst | zinc | 11.9 g | [Zn] | Zn
catalyst | titanium (IV) isopropoxide | 6.0 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (S)-N-tert-butyldimethylsilyl-4-vinyl-2-azetidinone | 2.13 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1C=C)=O | C11H21NOSi
